US06048842
3-(5-Benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone (10 g) is dissolved in ethyleneglycol dimethyl ether (30 ml), and thereto are added dimethyl carbonate (100 ml), Novozyme 435 (2 g, manufactured by Novo Nordisk A/S, Denmark) and molecular sieves 4A powder (8 g), and the mixture is stirred at 40° C. for 24 hours, and stirred at room temperature for 14 hours. The reaction mixture is diluted with chloroform, and the insoluble materials are removed by filtration. The filtrate is concentrated to dryness, and the residue is dissolved in ethyl acetate. The mixture is washed successively with 10% aqueous hydrochloric acid, water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, dried, and concentrated under reduced pressure. The residue is recrystallized three times from ether-isopropyl ether-water to give 3-(5-benzo[b]-furanyl)-2'-(6-O-methoxycarbonyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone (7.9 g). The physicochemical properties of the compound are the same as those of the compound obtained in Example 18.

reactant | 3-(5-Benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone | 10 g | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2O)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C24H26O9
reactant | dimethyl carbonate | 100 ml | C(OC)(OC)=O | C3H6O3
solvent | ethyleneglycol dimethyl ether | 30 ml | COCCOC | C4H10O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-benzo[b]-furanyl)-2'-(6-O-methoxycarbonyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone | 7.9 g | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2O)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)COC(=O)OC | C26H28O11
